2144-06-25 07:32:00 Physician Resident Progress Note
Chief Complaint: Pt spiked temp to 101.2 overnight. Sputum gram stain
   with 3+ GPCs and 2+ GNR started on vancomycin and cefepime.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-6-24**] 03:30 PM
 BLOOD CULTURED - At [**2144-6-24**] 05:00 PM
 SPUTUM CULTURE - At [**2144-6-24**] 05:15 PM
 BLOOD CULTURED - At [**2144-6-24**] 05:20 PM
 URINE CULTURE - At [**2144-6-24**] 05:30 PM
 FEVER - 101.2
F - [**2144-6-24**] 04:00 PM
   Allergies:
   Codeine
   Nausea/Vomiting
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2144-6-25**] 12:10 AM
   Cefipime - [**2144-6-25**] 02:18 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-6-24**] 08:12 PM
   Furosemide (Lasix) - [**2144-6-24**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-6-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.2
C (99
   HR: 79 (66 - 97) bpm
   BP: 87/42(52) {82/39(51) - 127/100(104)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    379 mL
                                                                    342 mL
   PO:
             TF:
   IVF:
                                                                     79 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    200 mL
   Urine:
                                                                  1,230 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -851 mL
                                                                    142 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 558 (520 - 670) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/49/108/27/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology:
   TTE [**6-24**] - mild symmetric left ventricular hypertrophy. Left
   ventricular systolic function is low normal (LVEF 50-55%). Right
   ventricular with significantly depressed free wall contractility.
   Ascending aorta is moderately dilated. Mild aortic valve stenosis (area
   1.2-1.9cm2). 1+ aortic regurgitation. Trivial mitral regurgitation.
   CXR [**6-24**]
 Diffuse left-sided airspace opacity
   151 K/uL
   9.8 g/dL
   94 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   31.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2144-6-24**]  01:51 PM
                             [**2144-6-24**]  02:59 PM
                             [**2144-6-24**]  08:53 PM
                             [**2144-6-25**]  04:17 AM
   WBC
   3.5
   8.2
   Hct
   35.4
   31.7
   31.5
   Plt
   137
   151
   Cr
   1.6
   2.0
   2.5
   TropT
   <0.01
   TCO2
   28
   Glucose
   155
   94
   Other labs: PT / PTT / INR:15.9/28.1/1.4, CK / CKMB /
   Troponin-T:613/4/<0.01, Differential-Neuts:86.0 %, Band:1.0 %,
   Lymph:6.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
Micro: Sputum Cx - [**2144-6-24**]
   GRAM STAIN (Final [**2144-6-24**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   [**6-24**] Blood Cx - NGTD
   Assessment and Plan
   72 yo M with PMH of CAD s/p CABG, atrial fibrillation, diastolic
   dysfunction, COPD here for evaluation of GI bleed who developed
   respiratory distress requiring intubation along with cardiac arrest.
   .
   # Respiratory distress:  Likely had pulmonary edema in the setting of
   getting IVF during the procedure vs aspiration pneumonitis (although
   unwitnessed but CXR suggests this). But precipitant for episode is
   unclear- tachycardia causing flash pulm edema, preload dropping off
   sedation from procedure causing flash. DDX also includes aspiration
   pneumonitis (although no witnessed event), aspiration pneumonia, AMI
   (did not complain of CP prior to event as far as we know), PE (unlikely
   given CXR showing edema but he does have afib and is off coumadin for
   the procedure).
   -diuresis-- put out 1L from 40mg furosemide prior to code but still
   significantly volume overloaded.
   ----continue diuresis with boluses of furosemide as BP allows, consider
   furosemide gtt if needed.
   -ECHO to evaluate valves and heart function
   -monitor on tele
   -send cardiac enzymes- expect first set to be elevated given CPR, but
   interested in trend
   -EKG to look for signs of ischemia
   -continue to ween vent as tolerated with hope to extubate in AM.
   Currently on PS 8/5 and 40% FIO2. Blood gas nl. As he diureses, will
   lower PS and try to ween peep as well to SBT in AM
   .
   # bandemia: WBC low but near his baseline. He has 11% bands currently
   but likely stress reaction in setting of just having a code. No signs
   of infection currently, but will continue to monitor.
   -send diff in the AM
   -if hemodyamics change and he is unstable, will pan culture and cover
   with broad spectrum antibiotics
   .
   # CHF diastolic- currently acute on chronic: Last ECHO per OSH records
   showed EF 55% with significant valvular dysfunction.
   -diuresis as above
   -ECHO
   -on [**Last Name (un) 239**] at home- hold for now given borderline pressure; not on BB
   likely given h/o of sick sinus syndrome
   .
   # CAD s/p CABG: monitoring for ischemia as above with EKG and CE.
   -holding asa currently given procedure. will restart in AM if stable
   -on [**Last Name (un) 239**] at home- hold for now.
   -not on BB likely given history of SSS
   -holding imdur for now- likely restart in AM
   -continue statin (on lovastatin 60mg at home- use atorvastatin here)
   .
   # atrial fibrillation: currently rate controlled not on meds for
   control at home. Wife says his HR is normally low in the 60s. Off
   coumadin given GI procedure
   -hold coumadin for now
   -not on rate control [**Doctor Last Name **] at home likely given h/o SSS
   .
   # HTN: on losartan, imdur at home. Currently normotensive.
   -hold meds for now and likely restart in the AM
   .
   # GI bleed: chronic. has h/o AVMs throughout GI tract. Had gastric
   polyps removed today along with AVM cauderizations.
   -monitor closely for bleeding
   -T&C 4units PRBCs given history of bleeding post-procedure in the past
   .
   # AAA: stable per OSH records at 5.3cm.
   .
   # Myelodysplastic syndrome: transfusion dependent. HCT stable
   currently. WBC currently stable.
   .
   # CRI: baseline Cr 1.6-1.8. Currently at baseline. Unknown cause but
   could be HTN, DM. Also has myelodysplastic syndrome--could have MGUS vs
   MM
   -renally dose meds
   -consider sending SPEP and UPEP if not worked up elsewhere
   .
   # DM2: patient without formal diagnosis of diabetes but medication list
   from his wife has glimepiride suggesting he has diabetes.
   -fingersticks and ISS for now.
   -hold oral agents while NPO
   .
   # FEN: NPO for now with hope to extubate tomorrow. Otherwise diabetic
   heart healthy diet
   .
   # PPX: pneumoboots for DVT ppx. holding heparin in setting of GIB, PPI
   per home regimen, bowel regimen, chlorhexidine for VAP ppx
   .
   # ACCESS: 2 PIVs.
   .
   # Contact: wife [**Name (NI) 1040**]
   .
   # CODE: full
   .
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2144-6-24**] 02:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2144-06-26 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was extubated yesterday am now sating mid 90s on RA.
   Cardiology consult evaluated pt and recommended LENI to r/o DVT.
   Aspirin and isordil were restarted.
 ULTRASOUND - At [**2144-6-25**] 04:00 PM - negative for DVT
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2144-6-25**] 12:10 AM
   Cefipime - [**2144-6-25**] 02:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-6-26**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 90 (82 - 100) bpm
   BP: 115/57(79) {0/0(51) - 138/65(79)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,068 mL
                                                                    720 mL
   PO:
                                                                    720 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    348 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    300 mL
   Urine:
                                                                    600 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 4,107 (457 - 4,107) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   LLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): Person
   place time and situation, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   112 K/uL
   9.5 g/dL
   110 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   135 mEq/L
   30.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2144-6-24**]  01:51 PM
                             [**2144-6-24**]  02:59 PM
                             [**2144-6-24**]  08:53 PM
                             [**2144-6-25**]  04:17 AM
                             [**2144-6-25**]  06:34 PM
                             [**2144-6-26**]  05:09 AM
   WBC
   3.5
   8.2
   5.3
   Hct
   35.4
   31.7
   31.5
   30.2
   Plt
   137
   151
   112
   Cr
   1.6
   2.0
   2.5
   2.7
   2.5
   TropT
   <0.01
   0.02
   0.01
   TCO2
   28
   Glucose
   155
   94
   110
   Other labs: PT / PTT / INR:14.5/30.0/1.3, CK / CKMB /
   Troponin-T:567/4/0.01, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: FUrea 21%
   Imaging: LENI - negtaive for DVT
   Microbiology: Resp Culture [**6-24**] No growth
   Assessment and Plan
   Assessment and Plan
   72 yo M with PMH of CAD s/p CABG, atrial fibrillation, diastolic
   dysfunction, COPD here for evaluation of GI bleed who developed
   respiratory distress requiring intubation along with cardiac arrest.
   .
   # Respiratory distress:  Pt with evidence of flash pulmonary edema. CXR
   also suggestive of aspiration event. Pt diuresed yest 800cc. Pt spiked
   temp overnight and was started on vanc/cefepime for possible
   aspiration. The precipitant for episode is unclear- tachycardia causing
   flash pulm edema, preload dropping off sedation from procedure causing
   flash. DDX also includes aspiration pneumonitis (although no witnessed
   event), aspiration pneumonia, AMI
 CE
 trop neg x2.  PE possible
   given hx of afib and off coumadin for procedure. Pt also found to have
   RV dysfunction on TTE.
   - Pt weaned off vent and extubated [**6-25**] now sating well on RA
   - holding further diuresis given improved resp function and bump in Cr
   - Cards consult
 appreciate recs
 LENIs negative for DVT
 given rise
   in Cr unable to perform CTA to r/o PE. Continue ASA and coumadin
   - Afebrile, DC abx.
   .
   # Cardiac arrest
 pt underwent 1 round of CPR and received epi X1 for
   unclear rhythm. Upon arrival of [**Hospital Unit Name 44**] team pt had short episode of VT
   and broke without intervention.
   - Cards recs
 appreciate input
 Unlikely primary cardiac etiology,
   consider vagal stimulus vs PE
 LENI negative
   - will continue ASA
 plan to restart coumadin tonight
   .
   # CHF diastolic- currently acute on chronic: TTE with preserved EF.
   Mild AS.
   - holding diuresis as above
   -on [**Last Name (un) 239**] at home- hold for now given borderline pressure; not on BB
   likely given h/o of sick sinus syndrome
   .
   # Acute on Chronic RF: baseline Cr 1.6-1.8. Bump with diuresis to 2.5.
   Possible component of ATN given arrest yest. No BUN elevation [**2-29**]
   lasix.  F urea c/w prerenal. Holding lasix. If Cr improving plan to DC
   home
   -renally dose meds
   # CAD s/p CABG: -restart asa
   -on [**Last Name (un) 239**] at home- hold for now.
   -not on BB [**2-29**] history of SSS
   -restart imdur for hx of angina
   -continue statin (on lovastatin 60mg at home- use atorvastatin here)
   - outpatient cardiologist [**Name (NI) 420**], plan to pursue further ischemic
   workup as outpatient
   .
   # atrial fibrillation: currently rate controlled not on meds for
   control at home.
   - restart coumadin
   -not on rate control [**Doctor Last Name **] at home given h/o SSS
   .
   # GI bleed: chronic. has h/o AVMs throughout GI tract. Had gastric
   polyps removed along with AVM cauderizations.
   - restart coumadin and asa
 OK per gi recs
   # AAA: stable per OSH records at 5.3cm.
   .
   # Myelodysplastic syndrome: transfusion dependent. HCT stable
   currently. WBC currently stable.
   ..
   # DM2: patient without formal diagnosis of diabetes but medication list
   from his wife has glimepiride suggesting he has diabetes.
   -fingersticks and ISS for now.
   - restart oral med prior to dc
   .
   # FEN: diabetic heart healthy diet
   .
   # PPX: pneumoboots for DVT ppx. holding heparin in setting of GIB, PPI
   per home regimen, bowel regimen, chlorhexidine for VAP ppx
   .
   # ACCESS: 2 PIVs.
   .
   # Contact: wife [**Name (NI) 1040**]
   .
   # CODE: full
   .
   # Dispo: Pt stated very strongly he would like to be discharged from
   the hospital today, he is not agrreable to staying overnight for
   further monitoring. He is agreeable to close outpatient follow up but
   is planning to leave for [**State **] immediately upon discharge.  His
   outpatient cardiologist was [**State 420**] and he will follow up early next
   week for possible ischemic workup. Plan for DC this pm if Cr continues
   to improve.
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2144-6-24**] 02:07 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-06-26 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Much more comfortable. Breathing comfortable.
   24 Hour Events:
 ULTRASOUND - At [**2144-6-25**] 04:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Nausea/Vomiting
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2144-6-25**] 12:10 AM
   Cefipime - [**2144-6-25**] 02:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, minimal SOB
   Flowsheet Data as of  [**2144-6-26**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 95 (82 - 100) bpm
   BP: 129/65(82) {0/0(51) - 138/65(82)} mmHg
   RR: 14 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,068 mL
                                                                    820 mL
   PO:
                                                                    720 mL
                                                                    820 mL
   TF:
   IVF:
                                                                    348 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    300 mL
   Urine:
                                                                    600 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 4,107 (4,107 - 4,107) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   few basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   112 K/uL
   110 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   135 mEq/L
   30.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2144-6-24**]  01:51 PM
                             [**2144-6-24**]  02:59 PM
                             [**2144-6-24**]  08:53 PM
                             [**2144-6-25**]  04:17 AM
                             [**2144-6-25**]  06:34 PM
                             [**2144-6-26**]  05:09 AM
   WBC
   3.5
   8.2
   5.3
   Hct
   35.4
   31.7
   31.5
   30.2
   Plt
   137
   151
   112
   Cr
   1.6
   2.0
   2.5
   2.7
   2.5
   TropT
   <0.01
   0.02
   0.01
   TCO2
   28
   Glucose
   155
   94
   110
   Other labs: PT / PTT / INR:14.5/30.0/1.3, CK / CKMB /
   Troponin-T:567/4/0.01, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:6.0
   %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   S/P PEA arrest
   Pulmonary edema
   ATN
   S/P CABG
   GIB
   Breathing back toward baseline and exam suggests most of edema has
   resolved. We still do not have a good explanation for why he went into
   pulmonary edema - his fluid balance is even so IVF is not an
   explanation.  Likely had some transient LV noncompliance (ischemia) and
   flashed but has ruled out. Hct is now stable and GI is willing to have
   coumadin restarted.  We will recheck creat this afternoon - seems to
   have peaked. He is definite that he wants to leave the hospital and
   return to FL. We have spoken about our uncertainty about what happened
   and he is aware of our concern but wishes to be discharged. He will be
   in town until Sunday and will see his own cardiologist immediately upon
   return to FL
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: restart oral hypoglycemic
   Lines:
   20 Gauge - [**2144-6-24**] 02:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes